US04048191
A solution of 20 g. (0.053 mole) of ethyl 5-p-chlorobenzoyl-3-ethoxycarbonyl-1-methylpyrrole- 2-acetate in 200 ml of chloroform containing a few crystals of iodine as catalyst is heated to reflux and a solution of 3.0 ml (0.058 mole) of bromine in 20 ml of CH Cl3 is added over 45 min. The whole is heated under reflux for 11/2 hours, cooled, and washed successively with aqueous sodium bicarbonate solution, aqueous sodium bisulfite solution and brine. After the solution is dried over magnesium sulfate, the solvent is evaporated in vacuo and the resulting residue is recrystallized successively from methycyclohexane and 75% ethanol-water to give ethyl 4-bromo-5-(p-chlorobenzoyl)-3- ethoxycarbonyl-1-methylpyrrole-2-acetate as white crystals; m.p. 88°-90° C.

reactant | ethyl 5-p-chlorobenzoyl-3-ethoxycarbonyl-1-methylpyrrole- 2-acetate | 0.053 mole | ClC1=CC=C(C(=O)C2=CC(=C(N2C)CC(=O)OCC)C(=O)OCC)C=C1 | C19H20ClNO5
reactant | bromine | 0.058 mole, 3.0 ml | BrBr | Br2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | iodine | II | I2
product | ethyl 4-bromo-5-(p-chlorobenzoyl)-3- ethoxycarbonyl-1-methylpyrrole-2-acetate | BrC=1C(=C(N(C1C(C1=CC=C(C=C1)Cl)=O)C)CC(=O)OCC)C(=O)OCC | C19H19BrClNO5
